US08703795B2
d) 3-Bromo-5-(2,4-dimethoxy-benzyl)-7-oxo-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine-6-carboxylic acid methyl ester
4-Bromo-3-{[(2,4-dimethoxy-benzyl)-methoxycarbonylmethyl-amino]-methyl}-thiophene-2-carboxylic acid methyl ester (13.3 g, 28.2 mmol), example 31-c, was dissolved in 277 mL of anhydrous THF and cooled to −15° C. in a brine dry ice bath. A solution of 62.0 mL of 1.0 M potassium tert-butoxide in THF was added slowly to cold solution, and the reaction mixture was stirred at −15° C. for 30 min. and then at room temperature for 2 hours. The reaction was quenched with 62.0 mL of 1N HCl and 500 mL ammonium chloride, and extracted twice with 600 mL of ethyl acetate. The organic fractions were washed with brine, dried over anhydrous sodium sulfate and concentrated. The crude product was purified by flash chromatography eluting from silica gel with a gradient of 0-50% ethyl acetate in hexanes to produce 12.4 g of a yellow froth. MS: (+) m/z 461.9, 463.9 (M+Na+, 79Br/81Br).

reactant | 4-Bromo-3-{[(2,4-dimethoxy-benzyl)-methoxycarbonylmethyl-amino]-methyl}-thiophene-2-carboxylic acid methyl ester | 28.2 mmol, 13.3 g | COC(=O)C=1SC=C(C1CN(CC(=O)OC)CC1=C(C=C(C=C1)OC)OC)Br | C19H22BrNO6S
reactant | potassium tert-butoxide | 1.0 M, 62.0 mL | CC(C)([O-])C.[K+]
solvent | THF | 277 mL | C1CCOC1 | C4H8O
product | 3-Bromo-5-(2,4-dimethoxy-benzyl)-7-oxo-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine-6-carboxylic acid methyl ester | COC(=O)C1C(C2=C(CN1CC1=C(C=C(C=C1)OC)OC)C(=CS2)Br)=O | C18H18BrNO5S
